US06583150B1
7.4 g of cerium ammonium nitrate are added at ambient temperature to a solution of 1 g (3.83 mmol) of ethyl 5,8-dimethoxyquinoline-3-carboxylate in a CH3CN/H2O mixture (45 mL/23 mL). The reaction medium is stirred for 1 hour and the acetonitrile is then evaporated off. The medium is basified by adding 17 mL of saturated NaHCO3 solution. 60 mL of H2O are added and this mixture is then extracted with CH2Cl2 (3 times 100 mL). After drying over MgSO4 and evaporating off the solvent, 0.8 g of ethyl 5,8-dioxoquinoline-3-carboxylate is obtained.

reactant | cerium ammonium nitrate | 7.4 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | ethyl 5,8-dimethoxyquinoline-3-carboxylate | 3.83 mmol, 1 g | COC1=C2C=C(C=NC2=C(C=C1)OC)C(=O)OCC | C14H15NO4
solvent | CH3CN H2O | 45 mL | CC#N.O
product | ethyl 5,8-dioxoquinoline-3-carboxylate | 0.8 g, Yield: 91% | O=C1C=2C=C(C=NC2C(C=C1)=O)C(=O)OCC | C12H9NO4
